US07906517B2
Trifluoromethanesulfonic acid 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl ester (1.19 g) is dissolved in 1,4-dioxane (10 ml) and thereto are added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium dichloromethane complex (273 mg), bis(pinacolato)diboron (848 mg) and potassium acetate (492 mg), and the mixture is stirred under nitrogen atmosphere at 80° C. overnight. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate and the insoluble materials are removed by filtration through Celite™. The filtrate is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→7:3) to give (3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amine (648 mg). MS (m/z): 691 [M+H]+

reactant | Trifluoromethanesulfonic acid 2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl ester | 1.19 g | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C26H20F12N4O4S
reactant | bis(pinacolato)diboron | 848 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 492 mg | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-amine | 648 mg | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)B2OC(C(O2)(C)C)(C)C)C2=NC=C(C=N2)N2CCOCC2)C=C(C1)C(F)(F)F)(F)F | C31H32BF9N4O3
